US08022206B2
1-(2-Chloronaphthalen-1-yl)-ethanol
To an EtOH (70 ml) solution of 1-(2-Chloronaphthalen-1-yl)-ethanone (3.98 mmol; prepared according to J. Org. Chem. 1946, 11, 163-169) was added sodium borohydride (232 mg, 6.09 mmol). The mixture was stirred at rt under an atmosphere of nitrogen for one hour. After that time, the mixture was quenched with saturated NH4Cl followed by water, extracted with EtOAc (3×50 ml). The extracts were washed with water (50 ml), brine (50 ml), and dried over MgSO4. After concentration in vacuo, a beige oil was obtained. It was purified by chromatography on silica gel (25 g) eluting with an EtOAc/hexane gradient to give the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3): δ=1.44 (d, J=6.4 Hz, 3H), 2.33 (d, J=3.6 Hz, 1H), 5.97-6.06 (m, 1H), 7.39 (d, J=8.8 Hz, 1H), 7.45-7.58 (m, 2H), 7.67 (d, J=8.8 Hz, 1H), 7.81 (dd, J=1.6, 8.0 Hz, 1H), 8.75 (d, J=8.0 Hz, 1H). MS (ES+): 189.19/191.20 [MH+−H2O]. HPLC: tR=3.38 min (polar—5 min, ZQ3).

reactant | 1-(2-Chloronaphthalen-1-yl)-ethanone | 3.98 mmol | ClC1=C(C2=CC=CC=C2C=C1)C(C)=O | C12H9ClO
reactant | sodium borohydride | 6.09 mmol, 232 mg | [BH4-].[Na+]
solvent | EtOH | 70 ml | CCO | C2H6O
product | 1-(2-Chloronaphthalen-1-yl)-ethanol | ClC1=C(C2=CC=CC=C2C=C1)C(C)O | C12H11ClO
